US06057451
N-{2-{4-(2-Amino-4-thiazolyl)phenyl}ethyl}-2,2,2-trifluoroacetamide
The title compound: A solution of N-{2-{4-(2-bromoacetyl)phenyl}ethyl}-2,2,2,-trifluoroacetamide (1.00 g, 2.96 mmol), prepared in the preceding section (c), and thiourea (225 mg, 2.96 mmol) in isopropanol (30 mL) was heated at reflux for 1 h. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in a mixture of EtOAc and aqueous 10% HCl and the phases were separated. The aqueous layer was washed with EtOAc then rendered basic with solid K2CO3. The resulting mixture was extracted with EtOAc. The organic layer was dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography (SiO2, EtOAc:Hexane, 1:1) to give N-{2-{4-(2-amino-4-thiazolyl)phenyl}ethyl}-2,2,2-trifluoroacetamide (240 mg, 26% yield): M.p. 180-182°; 1H NMR (DMSO-d6) δ 9.48 (broad t, J=5.4 Hz, 1H), 7.72 (d, J=8.4 Hz, 2H), 7.19 (d, J=8.4 Hz, 2H), 7.00 (broad s, 2H), 6.95 (s, 1H), 3.43 (broad q, J=6.8 Hz, 2H), 2.80 (t, J=7.2 Hz, 2H); MS (FAB) m/z 316 (MH)+ ; Anal. Calcd for C13H12F3N3OS: C, 49.52; H, 3.84; N, 13.33; S, 10.17. Found: C, 49.69; H, 3.82; N, 13.36; S, 10.00.

reactant | N-{2-{4-(2-bromoacetyl)phenyl}ethyl}-2,2,2,-trifluoroacetamide | 2.96 mmol, 1.00 g | BrCC(=O)C1=CC=C(C=C1)CCNC(C(F)(F)F)=O | C12H11BrF3NO2
reactant | thiourea | 2.96 mmol, 225 mg | NC(=S)N | CH4N2S
solvent | isopropanol | 30 mL | C(C)(C)O | C3H8O
product | N-{2-{4-(2-Amino-4-thiazolyl)phenyl}ethyl}-2,2,2-trifluoroacetamide | NC=1SC=C(N1)C1=CC=C(C=C1)CCNC(C(F)(F)F)=O | C13H12F3N3OS
